US05610293
B. Synthesis of 1-oxa-4,7,10,13-tetraazacyclopentadecane
A mixture of 4,7,10,13-tetra(p-toluenesulfonyl)-1-oxa-4,7,10,13-tetraazacyclopentadecane prepared as in Example 17A (10.9 g, 0.0131 mole) and concentrated H2SO4 (70 ml) was heated at 100° C. with stirring under a dry argon atmosphere for 70 h. To the resulting brown solution, ethanol (140 ml) was added dropwise with stirring at 5° C., followed by ethyl ether (340 ml). The gummy brown solid was filtered and dissolved in H2O (100 ml). The pH of the solution was adjusted to 10 with 10N NaOH and the solution was extracted with 6×100 ml CHCl3. The extracts were combined, dried (Na2SO4) and the solvent removed in vacuo. The crude product was purified by crystallization from hexane to give 0.49 g (17% yield) of the product as colorless needles: mp 80°-1° C.; 1H NMR (CDCl3) δ1.98 (br s, 4 H), 2.76 (m, 16 H), 3.61 (m, 4 H) ; Exact mass (M+H)+ : calcd., 217.2028; Found: 217.2051 (C10H25N4O).

reactant | 4,7,10,13-tetra(p-toluenesulfonyl)-1-oxa-4,7,10,13-tetraazacyclopentadecane | C1(=CC=C(C=C1)S(=O)(=O)N1CCOCCN(CCN(CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)C | C38H48N4O9S4
reactant | H2SO4 | 70 ml | OS(=O)(=O)O | H2O4S
reactant | ethanol | 140 ml | C(C)O | C2H6O
solvent | ethyl ether | 340 ml | C(C)OCC | C4H10O
product | 1-oxa-4,7,10,13-tetraazacyclopentadecane | 0.49 g, 17% yield | O1CCNCCNCCNCCNCC1 | C10H24N4O
